### PR TITLE
[Merged by Bors] - chore: remove superfluous `ge_iff_le`

### PR DESCRIPTION
**Pull request by mo271**
These were likely introduced by calling simp?, but are not necessary.

This is fixed in https://github.com/leanprover/lean4/pull/4567, so now might be a good time for cleaning them up.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Chain.lean [hunk 1]
```diff
@@ -453,9 +453,7 @@ theorem Chain'.cons_of_le [LinearOrder α] {a : α} {as m : List α}
         apply hmas
         apply le_of_lt
         exact (List.lt_iff_lex_lt _ _).mp (List.lt.head _ _ hh)
-      · simp only [List.cons.injEq] at hmas
-        rw [ge_iff_le, le_iff_lt_or_eq]
-        exact Or.inr hmas.1
+      · simp_all only [List.cons.injEq, le_refl]
```
Comment (mo271) [inline Mathlib/Data/List/Chain.lean:456]: this is the only place, where I manually simplified the proof further. All others are regular expression replacements.

File: Archive/Imo/Imo2008Q2.lean [hunk 2]
```diff
@@ -53,7 +53,7 @@ theorem imo2008_q2a (x y z : ℝ) (h : x * y * z = 1) (hx : x ≠ 1) (hy : y ≠
   have hn_ne_zero : n ≠ 0 := by contrapose! hx; field_simp; assumption
   have hmn_ne_zero : m + n ≠ 0 := by contrapose! hz; field_simp; linarith
   have hc_sub_sub : c - (c - m - n) = m + n := by abel
-  rw [ge_iff_le, ← sub_nonneg]
+  rw [← sub_nonneg]
```
Comment (Ruben-VandeVelde) [inline Archive/Imo/Imo2008Q2.lean:56]: This one is actually necessary, because the theorem statement incorrectly uses ge

Comment (mo271) [reply Archive/Imo/Imo2008Q2.lean]: thanks, added it back

**Comment by riccardobrasca** [comment]
Nice!

bors merge
